US09359381B2
Step 5: 8-(aminomethyl)-10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione as a mixture of stereoisomers
Ethanolamine (0.320 mL, 5.30 mmol) was added to a solution of 10-(5-chlorofuran-2-yl)-8-((1,3-dioxoisoindolin-2-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione (537 mg, 0.883 mmol) in toluene (10 mL). The mixture was stirred at 70° C. for 3 hours and then cooled to room temperature for 16, then heated at 70° C. for a further 2.5 hours and again cooled to room temperature. The mixture was diluted with water (100 ml) and ethyl acetate (100 ml). The organic phase was separated, washed with 1M NaOH(aq) (50 ml) passed through a hydrophobic frit and evaporated under vacuum to afford the title compound as a mixture of diastereomers.

reactant | Ethanolamine | 5.30 mmol, 0.320 mL | C(O)CN | C2H7NO
reactant | 10-(5-chlorofuran-2-yl)-8-((1,3-dioxoisoindolin-2-yl)methyl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione | 0.883 mmol, 537 mg | ClC1=CC=C(O1)C1SC(CN2C1=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O)CN1C(C2=CC=CC=C2C1=O)=O | C28H22ClN5O5S2
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 100 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 8-(aminomethyl)-10-(5-chlorofuran-2-yl)-1,3-dimethyl-5-(4-methylthiazol-2-yl)-7,8-dihydro-1H-pyrimido[4′,5′:3,4]pyrrolo[2,1-c][1,4]thiazine-2,4(3H,10H)-dione | NCC1CN2C(C(S1)C=1OC(=CC1)Cl)=C1C(=C2C=2SC=C(N2)C)C(N(C(N1C)=O)C)=O | C20H20ClN5O3S2
